USRE029761
1,2-bis-[N'-(2-(5-Methyl-4-imidazolylmethylthio)ethyl) guanidino]ethane
The reaction of 1,2-diaminoethane (0.60 g) with S-methyl-N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiouronium sulphate (5.86 g) by the method described in Example 5 afforded the title compound which was isolated as the dipicrate (3.5 g), m.p. 201-203°.

reactant | 1,2-diaminoethane | 0.60 g | NCCN | C2H8N2
reactant | S-methyl-N-[2-((5-methyl-4-imidazolyl)methylthio)ethyl]thiouronium sulphate | 5.86 g | S(=O)(=O)([O-])[O-].CSC(=[NH+]CCSCC=1N=CNC1C)N.CSC(=[NH+]CCSCC=1N=CNC1C)N
product | 1,2-bis-[N'-(2-(5-Methyl-4-imidazolylmethylthio)ethyl) guanidino]ethane | CC1=C(N=CN1)CSCCN=C(NCCNC(=NCCSCC=1N=CNC1C)N)N | C18H32N10S2
